US08258130B2
A solution of 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride (0.45 mmol) and bromo-dihydro-furan-2-one (1.8 mmol) in DMF (10 mL) is stirred under N2 at 0° C. for 15 min, then NaH (60%, 1.8 mmol) is added and the mixture is warmed to rt and stirred overnight. The mixture is quenched with water, and extracted with EtOAC. The organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-2% methanol in DCM to afford give 2-phenyl-pyrimidine-5-carboxylic acid [4-(2-oxo-tetrahydro-furan-3-yl)-piperazin-1-yl]-amide (120 mg, 73%) as a solid. MS: 368 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.34 (s, 2H), 2.50-3.30 (m, 8H), 3.42-3.70 (m, H), 4.17-4.50 (m, 2H), 7.34-7.68 (m, 3H), 8.50 (d, 2H), 9.06-9.38 (d, 2H). IC50=26 nM.

reactant | 2-phenyl-pyrimidine-5-carboxylic acid piperazin-1-ylamide dihydrochloride | 0.45 mmol | Cl.Cl.N1(CCNCC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1
reactant | bromo-dihydro-furan-2-one | 1.8 mmol | BrC1C(OCC1)=O | C4H5BrO2
reactant | NaH | 1.8 mmol | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-phenyl-pyrimidine-5-carboxylic acid [4-(2-oxo-tetrahydro-furan-3-yl)-piperazin-1-yl]-amide | 120 mg, 73% | O=C1OCCC1N1CCN(CC1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C19H21N5O3
